US07842696B2
DIPEA (330 mg, 0.44 mL, 2.6 mmol) was added drop wise to N-methyl-isophthalamic acid (145 mg, 0.8 mmol) in DMF (3 mL). EDCI (180 mg, 0.96 mmol) and HOBT (130 mg, 0.96 mmol) were added consecutively and, after 10 minutes, 2-Amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone in its HCl salt form (281 mg, 0.8 mmol) was added. The resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to get the residue. The obtained residue was purified by column chromatography (using basic alumina and 10% MeOH in CHCl3 as eluent) to afford 35 mg (9.18% yield) of N-methyl-N′-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-isophthalamide. LCMS Purity: 97.7%. 1H NMR (CDCl3): δ 8.1 (bs, 1H), 7.9 (m, 2H), 7.7 (m, 1H), 7.5 (m, 3H), 7.4 (m, 2H), 6.3 (bs, 1H), 4.2 (m, 2H), 4.0 (m, 2H), 3.6 (m, 5H), 3.4 (m, 1H), 3.2 (m, 2H), 3.0 (d, 3H).

reactant | DIPEA | 2.6 mmol, 0.44 mL, 330 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methyl-isophthalamic acid | 0.8 mmol, 145 mg | CNC(C=1C=C(C(=O)O)C=CC1)=O | C9H9NO3
reactant | EDCI | 0.96 mmol, 180 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.96 mmol, 130 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-Amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone | NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C14H16F3N3O2
reactant | HCl | Cl | ClH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-methyl-N′-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-isophthalamide | 35 mg, 9.18% yield | CNC(C1=CC(C(=O)NCC(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)=CC=C1)=O | C23H23F3N4O4
